US05965614
To a solution of the aniline in THF was added dropwise 1 equivalent of di-tert-butyl dicarbonate (Aldrich) in THF and then 1.5 equivalents of 10N aqueous sodium hydroxide at 0° C. After stirring at room temperature for 16 hours, or heating at 80° C. for 3 hours, if needed, the reaction mixture was diluted with ether and washed with NaHCO3, brine, dried over sodium sulfate and potassium carbonate, concentrated at reduced pressure and chromatographed to afford the N-BOC aniline.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | di-tert-butyl dicarbonate | 1 equivalent | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 10N, 1.5 equivalents | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | N-BOC aniline | C(=O)(OC(C)(C)C)NC1=CC=CC=C1 | C11H15NO2
